US04294919
(3) 3-[4-(2-Formylhydrazino)phenylcarbamoyl]phenylisothiocyanate
51 g of 2-[4-(3-aminobenzamido)phenyl]-1-formylhydrazine and 29 g of calcium carbonate were dispersed in a mixture of 120 ml of dioxane and 120 ml of water. To the dispersion, 25 g of thiophosgene was added under cooling with ice. After reacting under cooling with ice for 3 hours, the crystals deposited were collected by filtration to obtain 42 g of the object compound.

reactant | 2-[4-(3-aminobenzamido)phenyl]-1-formylhydrazine | 51 g | NC=1C=C(C(=O)NC2=CC=C(C=C2)NNC=O)C=CC1 | C14H14N4O2
reactant | calcium carbonate | 29 g | C([O-])([O-])=O.[Ca+2]
reactant | thiophosgene | 25 g | C(=S)(Cl)Cl | CCl2S
solvent | dioxane | 120 ml | O1CCOCC1 | C4H8O2
solvent | water | 120 ml | O | H2O
product | 3-[4-(2-Formylhydrazino)phenylcarbamoyl]phenylisothiocyanate | 42 g | C(=O)NNC1=CC=C(C=C1)NC(=O)C=1C=C(C=CC1)N=C=S | C15H12N4O2S
